US06960595B2
A mixture of p-bromoaniline (17.2 g, 100 m mol) and bromoethanol (3.54 mL, 50 m mol) in a 50 mL round bottle was heated gradually to 70° C. and then was stirred at 70° C. overnight. The reaction mixture was then cooled, basified with aq. NaOH, and extracted with ether. The ether layers were dried over Na2SO4 and concentrated to near dryness. N-β-hydroxyethyl-p-bromoaniline was obtained as a crystalline material (5.1 g, 47%). 1H NMR (CDCl3): δ 7.28 (2H, d, J=8.8 Hz), 6.60 (2H, d, J=8.8 Hz), 3.86 (2H, t, J=5.1 Hz), 3.29 (2H, t, J=5.1 Hz), 3.00 (2H, br s) ppm.

reactant | p-bromoaniline | 17.2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | bromoethanol | 3.54 mL | BrC(C)O | C2H5BrO
reactant | NaOH | [OH-].[Na+]
product | N-β-hydroxyethyl-p-bromoaniline | OCCNC1=CC=C(C=C1)Br | C8H10BrNO
